US04652297
N-trifluoroacetyl-N-[bis(N-methyl-N-benzylamino)phosphinothioylmethyl]glycine, octyl ester (3.7 g, 6.16 mm), was dissolved in 30 ml of tetrahydrofuran containing 6 ml of water and cooled to 0° C. on an ice bath. The solution was stirred and sodium tetrahydrido boron (234 mg, 6.16 mm) was added portionwise over about 10 minutes. The solution was allowed to warm to room temperature and stirred for an additional 35 minutes. (a) The solvent was removed by evaporation under vacuum and the residue was washed with water. The water washings were saturated with sodium chloride and the aqueous layer and the insoluble residue were simultaneously extracted with ethyl acetate three times. The combined ethyl acetate extracts were dried over sodium sulfate, filtered and concentrated in vacuo. A thin layer chromatograph of the residue indicated that the starting material was still present. The remainder of this residue was dissolved in tetrahydrofuran (30 ml), H2O (6 ml) and sodium tetrahydridoboron (234 mg) was added with stirring. The solution was stirred for 2 hours. This solution was then treated as in step (a). The resulting residue from the repeat of step (a) was then chromatographed on silica gel employing ether to yield N-[bis(N-methyl-N-benzylamino)phosphinothioylmethyl]glycine, octyl ester (700 mg) having a refractive index ND25 =1.5404.

reactant | N-trifluoroacetyl-N-[bis(N-methyl-N-benzylamino)phosphinothioylmethyl]glycine, octyl ester | 3.7 g | FC(C(=O)N(CC(=O)OCCCCCCCC)CP(=S)(N(C)CC1=CC=CC=C1)N(CC1=CC=CC=C1)C)(F)F | C29H41F3N3O3PS
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-[bis(N-methyl-N-benzylamino)phosphinothioylmethyl]glycine, octyl ester | 700 mg | CN(CC1=CC=CC=C1)P(=S)(N(C)CC1=CC=CC=C1)CNCC(=O)OCCCCCCCC | C27H42N3O2PS
